US04245107
348 mg. of 2-furylsulfinylacetic acid of the R form and 7-amino-3-azidomethyl-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 163 mg. of 7-(2-furylsulfinylacetamido)-3-azidomethyl-3-cephem-4-carboxylic acid of the R form were obtained.

reactant | 2-furylsulfinylacetic acid | O1C(=CC=C1)S(=O)CC(=O)O | C6H6O4S
reactant | 7-amino-3-azidomethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O | C8H9N5O3S
product | 7-(2-furylsulfinylacetamido)-3-azidomethyl-3-cephem-4-carboxylic acid | O1C(=CC=C1)S(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)O)C1=O | C14H13N5O6S2
